US06797823B1
N-(2-Chloro-4-{[6-methoxy-7-(3-morpholino-propoxy)-4-quinazolinyl]oxy}phenyl)-N′-(2,4-difluoro-phenyl)urea
A starting compound (N-(4-{[7-(3-bromopropoxy)-6-methoxy-4-quinazolinyl]oxy}-2-chlorophenyl)-N′-(2,4-difluorophenyl)urea, 59 mg), potassium carbonate (857 mg), and morpholine (0.043 ml) were dissolved in N,N-dimethylformamide (1 ml), and the solution was stirred at room temperature for 18 hr. Water was added to the reaction mixture, and the mixture was extracted with chloroform-propanol (3/1). The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under the reduced pressure. The residue was washed with ether to give 53 mg (yield 89%) of the title compound.

reactant | N-(4-{[7-(3-bromopropoxy)-6-methoxy-4-quinazolinyl]oxy}-2-chlorophenyl)-N′-(2,4-difluorophenyl)urea | BrCCCOC1=C(C=C2C(=NC=NC2=C1)OC1=CC(=C(C=C1)NC(=O)NC1=C(C=C(C=C1)F)F)Cl)OC | C25H20BrClF2N4O4
reactant | potassium carbonate | 857 mg | C([O-])([O-])=O.[K+].[K+]
reactant | morpholine | 0.043 ml | N1CCOCC1 | C4H9NO
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N-(2-Chloro-4-{[6-methoxy-7-(3-morpholino-propoxy)-4-quinazolinyl]oxy}phenyl)-N′-(2,4-difluoro-phenyl)urea | 53 mg, yield 89% | ClC1=C(C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1)NC(=O)NC1=C(C=C(C=C1)F)F | C29H28ClF2N5O5
